US04493843
A solution of 2-(n-undecyl)indole-6-carboxylic acid (15.0 g) in methanol (200 ml) containing aqueous hydrochloric acid (10 ml of strength 36.5% w/v) was refluxed for 8 hours. The solution was concentrated in vacuo to about one half of its volume, diluted with diethyl ether (300 ml) and washed with water. The solution was dried over magnesium sulphate, then evaporated in vacuo and the residue was recrystallised from methanol to give methyl 2-(n-undecyl)indole-6-carboxylate (10.5 g), in the form of an off-white powder, m.p. 84°-86° C.

reactant | 2-(n-undecyl)indole-6-carboxylic acid | 15.0 g | C(CCCCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)O | C20H29NO2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | methanol | 200 ml | CO | CH4O
product | methyl 2-(n-undecyl)indole-6-carboxylate | 10.5 g | C(CCCCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)OC | C21H31NO2
